US08183380B2
Step D: rac-[4-(2-Methoxy-ethoxy)-2,3-dihydro-benzofuran-3-yl]-(6-nitro-quinolin-2-yl)-amine:
A mixture of 2-chloro-6-nitro-quinoline (1.04 g, 5.0 mmol) in 1-methyl-2-pyrrolidone (10 mL) with the above described rac-4-(2-methoxy-ethoxy)-2,3-dihydro-benzofuran-3-ylamine (1.14 g, 5.5 mmol) and N-ethyldiisopropylamine (1.27 mL, 7.5 mmol) was stirred at 140° C. for 2 h. Cooled to 23° C., poured onto water and extracted twice with ethyl acetate, dried over Na2SO4 and evaporated totally to give a crude product which was purified by silica gel column chromatography with heptane/dichloromethane followed by trituration with diethyl ether to give the title compound as an orange solid (1.24 g, 65%); MS: m/e=382.3 (M+H−).

reactant | 2-chloro-6-nitro-quinoline | 5.0 mmol, 1.04 g | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | rac-4-(2-methoxy-ethoxy)-2,3-dihydro-benzofuran-3-ylamine | 5.5 mmol, 1.14 g | COCCOC1=CC=CC2=C1C(CO2)N | C11H15NO3
reactant | N-ethyldiisopropylamine | 7.5 mmol, 1.27 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | 1-methyl-2-pyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
product | rac-[4-(2-Methoxy-ethoxy)-2,3-dihydro-benzofuran-3-yl]-(6-nitro-quinolin-2-yl)-amine | 1.24 g, 65% | COCCOC1=CC=CC2=C1C(CO2)NC2=NC1=CC=C(C=C1C=C2)[N+](=O)[O-] | C20H19N3O5
